US03966736
Sodium hydride (0.178 g., 4.21 mmoles of a 57% dispersion in mineral oil) is added to a solution of 2,9-dihydro-9-[(dimethylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepin-3-one (4.21 mmoles) in 50 ml. of dimethylformamide and the mixture is heated at 95° C. for 35 minutes. The mixture is cooled to 50° C., a solution of methyliodide (4.21 mmole) is added and heating is continued at 95° C. for 21 hours. The mixture is evaporated and methylene chloride-water is added to the residue. The organic layer is separated and extracted three times with 10 ml. portions of 10% aqueous hydrochloric acid. The acid extract is cooled, made alkaline with 15% aqueous sodium hydroxide and the basic mixture is extracted with methylene chloride. The extract is washed with saturated salt solution, dried over anhydrous magnesium sulfate and evaporated. Crystallization of the residue from ether gives 2,9-dihydro-2-methyl-9-[(dimethylamino)acetyl]-3 H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepine.

reactant | Sodium hydride | [H-].[Na+]
reactant | 2,9-dihydro-9-[(dimethylamino)acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepin-3-one | 4.21 mmoles | CN(C)CC(=O)N1C2=C(C=3N(C4=C1C=CC=C4)C(NN3)=O)C=CC=N2 | C17H16N6O2
reactant | methyliodide | 4.21 mmole | CI | CH3I
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2,9-dihydro-2-methyl-9-[(dimethylamino)acetyl]-3 H-pyrido[3,2-c]-s-triazolo[4,3-a]-[1,5]benzodiazepine | CN1N=C2N(C3=C(N(C4=C2C=CC=N4)C(CN(C)C)=O)C=CC=C3)C1 | C18H20N6O
